US07655666B2
2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (583 mg, 1.69 mmol) and 3-methyl-5-tributylstannanyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole (847 mg, 1 equiv) were weighed in air and added to a flame-dried flask. Bistriphenylphosphinedichloropalladium (119 mg, 0.1 equiv) was added. Dioxane (15 mL) was added and the mixture was stirred for 18 h at 90° C. The mixture was evaporated to dryness. The crude product was purified by flash chromatography (hexanes to EtOAc/hexanes (1:4)) to furnish 2-amino-5-[5-methyl-2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester (426 mg, 59%) as a yellow paste (ESI-MS: m/z 430.5 [M+H]+, rt 6.54 min).

reactant | 2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 1.69 mmol, 583 mg | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 3-methyl-5-tributylstannanyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole | 847 mg, 1 equiv | CC1=NN(C(=C1)[Sn](CCCC)(CCCC)CCCC)CCOC[Si](C)(C)C
solvent | Dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-[5-methyl-2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester | 426 mg, 59% | COC(C1=C(C=C(C(=C1)C=1N(N=C(C1)C)CCOC[Si](C)(C)C)C(F)(F)F)N)=O | C19H26F3N3O3Si
